US05387710
A mixture of N-tert-butoxycarbonyl-5-hydroxyindan-2-amine (0.42 g), potassium carbonate (0.34 g), ethyl bromoacetate (0.24 ml), and N,N-dimethylformamide (4.2 ml) was stirred at ambient temperature for 20 hours. An additional portion of ethyl bromoacetate (0.12 ml) and potassium carbonate (0.17 g) was added to the mixture, and stirring was continued for an additional 12 hours. The mixture was diluted with ethyl acetate and the precipitates were filtered off. The filtrate was concentrated in vacuo, and the residue was dissolved in ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. Purification of the residue by column chromatography on silica gel (eluent; 5:1 n-hexane-ethyl acetate) to give N-tert-butoxycarbonyl-5-ethoxycarbonylmethoxyindan-2-amine (0.44 g).

reactant | N-tert-butoxycarbonyl-5-hydroxyindan-2-amine | 0.42 g | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.24 ml | BrCC(=O)OCC | C4H7BrO2
reactant | N,N-dimethylformamide | 4.2 ml | CN(C=O)C | C3H7NO
reactant | ethyl bromoacetate | 0.12 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonyl-5-ethoxycarbonylmethoxyindan-2-amine | 0.44 g | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)OCC(=O)OCC | C18H25NO5
